US06252084B1
A solution of 3.8 g (146 mmol) of 2-cyclopropyl-5-methoxyl-1H-indole-3-acetic acid methyl ester in 50 mL of DMF was treated with 0.59 g (0146 mol) of 60% NaH/mineral oil, stirred 0.5 hour, and 1.69 mL (146 mmol) of benzyl chloride added. After 20 hours, the reaction mixture was diluted with water, extracted with EtOAc, the EtOAc solution was washed four times with water and dried over Na2SO4. After concentrating at reduced pressure, the product was purified by chromatography on silica, eluting with a gradient, 5% EtOAc/toluene→15% EtOAc/toluene, to give 2.05 g (40% yield) of 2-cyclopropyl-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid methyl ester as an oil.

reactant | 2-cyclopropyl-5-methoxyl-1H-indole-3-acetic acid methyl ester | 146 mmol, 3.8 g | COC(CC1=C(NC2=CC=C(C=C12)OC)C1CC1)=O | C15H17NO3
reactant | NaH | 0.59 g | [H-].[Na+]
reactant | benzyl chloride | 146 mmol, 1.69 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-cyclopropyl-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid methyl ester | 2.05 g, 40% yield | COC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=CC=CC=C1)C1CC1)=O | C22H23NO3
